US06518257B1
(ii) Production of 1-(4′-fluoro[1,1′-biphenyl]-3-yl)-1-(1H-imidazol-4-yl)-1-ethanol
By the reaction in the same manner as in Example 4-(iii) using 1-(4′-fluoro[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-1-ethanol (1.51 g) and pyridine hydrochloride (599 mg), the title compound (559 mg) was obtained as colorless plate crystals.

reactant | 1-(4′-fluoro[1,1′-biphenyl]-3-yl)-1-(1-trityl-1H-imidazol-4-yl)-1-ethanol | 1.51 g | FC1=CC=C(C=C1)C1=CC(=CC=C1)C(C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H29FN2O
reactant | pyridine hydrochloride | 599 mg | Cl.N1=CC=CC=C1
product | 1-(4′-fluoro[1,1′-biphenyl]-3-yl)-1-(1H-imidazol-4-yl)-1-ethanol | 559 mg | FC1=CC=C(C=C1)C1=CC(=CC=C1)C(C)(O)C=1N=CNC1 | C17H15FN2O
